US08685964B2
Step 3: 2-[1,2,4]Oxadiazol-3-yl-6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine
0.24 g of N-hydroxy-6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carboxamidine (crude product from the previous step) was dissolved in THF/triethyl orthoformate, and 0.2 g of BF3-ET2O was added. After 2 h, ethyl acetate, aq. citrate buffer pH=6 and aq. NaCl were added and the aqueous phase was extracted 3 times with ethyl acetate. The combined organic phases were dried with MgSO4 and concentrated by evaporation, and the residue was purified by chromatography on silica gel (petroleum ether/acetone).

reactant | N-hydroxy-6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carboxamidine | 0.24 g | ONC(=N)C1=NC(=CC=C1)C=1C=NN(C1)C=1C=NC=CC1 | C14H12N6O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | citrate | pH=6 | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
reactant | NaCl | [Na+].[Cl-]
solvent | THF triethyl orthoformate | C1CCOC1.C(OCC)(OCC)OCC
product | 2-[1,2,4]Oxadiazol-3-yl-6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine | O1N=C(N=C1)C1=NC(=CC=C1)C=1C=NN(C1)C=1C=NC=CC1 | C15H10N6O
